US04990521
To a stirred and cooled (<10° C.) solution of 9.65 parts of 5-methoxy-2H-3,1-benzoxazine-2,4(1H)-dione in 54 parts of N,N-dimethylformamide were added portionwise 2.64 parts of a sodium hydride dispersion 50%. After stirring for 1 hour in an ice bath. 7.81 parts of iodomethane were added dropwise at <15° C. When the reaction mixture was solidified, 45 parts of N,N-dimethylformamide were added and a sodium hydride dispersion 50% was further added dropwise. Upon complete addition, stirring was continued overnight while the reaction mixture was allowed to reach room temperature. The reaction mixture was poured into ice water and 2,2'-oxybispropane was added. The precipitated product was filtered off, washed with water and dried, yielding 8.37 parts (80.7%) of 5-methoxy-1-methyl-2H-3,1-benzoxazine-2,4(1H)-dione; mp. 215.8° C. (interm. 2)

reactant | 5-methoxy-2H-3,1-benzoxazine-2,4(1H)-dione | COC1=CC=CC2=C1C(OC(N2)=O)=O | C9H7NO4
reactant | sodium hydride | [H-].[Na+]
reactant | iodomethane | IC | CH3I
reactant | 2,2'-oxybispropane | O(C(C)C)C(C)C | C6H14O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 5-methoxy-1-methyl-2H-3,1-benzoxazine-2,4(1H)-dione | 80.7% | COC1=CC=CC2=C1C(OC(N2C)=O)=O | C10H9NO4
